US06583135B2
Preparation of 3-Benzoyl-10-(2-propoxyphenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole
A slurry of 2-(3-benzoyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indol-10-yl)phenol (357 mg, 0.93 mmol), CS2CO3 (1.24 g, 3.82 mmol) and 1-iodopropane (195 mg, 1.15 mmol) in acetone (10 mL) was stirred at room temperature under nitrogen for 15 hours. The reaction was filtered and the filtrate concentrated in vacuo. The residue was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over MgSO4 and concentrated in vacuo to give a yellow oil which was passed through a column of silica gel with 50% ethyl acetate/hexane to give 276 mg (70%) of a white foam as the title compound: MS m/z 425.3 (M++H).

reactant | 2-(3-benzoyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indol-10-yl)phenol | 0.93 mmol, 357 mg | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)C1=C(C=CC=C1)O | C25H22N2O2
reactant | 1-iodopropane | 1.15 mmol, 195 mg | ICCC | C3H7I
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 3-Benzoyl-10-(2-propoxyphenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)C1=C(C=CC=C1)OCCC | C28H28N2O2
